US04303667
3-chloro-4(2,3-dichlorophenyl)-1-formylpyrrole (Compound No. 5)
5 ml of a solution of 0.7 g of formic acid (99%) in tetrahydrofuran was added dropwise to a solution of 2.3 g of carbodiimidazole in 50 ml of tetrahydrofuran at room temperature with stirring to prepare the solution of 1-formylimidazole. A solution of 1g of 3-chloro-4-(2,3-dichlorophenyl) pyrrole in 10 ml of tetrahydrofuran was added dropwise to the solution of 1-formylimidazole. After refluxing the solution for two hours with stirring, the resulting reaction solution was left overnight and then the solvent was removed by distillation under reduced pressure. The residue was dissolved in 100 ml of ethyl acetate and the solution was washed with water and then saturated aqueous solution of sodium chloride. After drying the solution with anhydrous magnesium sulfate, the solvent was removed by distillation to obtain 1.1 g of the desired product. The product was purified by recrystallization from ethyl acetate to obtain colorless needles of the desired compound.

reactant | formic acid | 0.7 g | C(=O)O | CH2O2
reactant | carbodiimidazole | 2.3 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-formylimidazole | C(=O)N1C=NC=C1 | C4H4N2O
reactant | 3-chloro-4-(2,3-dichlorophenyl) pyrrole | ClC1=CNC=C1C1=C(C(=CC=C1)Cl)Cl | C10H6Cl3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-chloro-4(2,3-dichlorophenyl)-1-formylpyrrole | 1.1 g | ClC1=CN(C=C1C1=C(C(=CC=C1)Cl)Cl)C=O | C11H6Cl3NO
